US07662771B2
5-[5-(2-Hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid
Add a solution of LiOH.H2O (2.87 g, 68.4 mmol) in water (60 mL) to a rapidly stirred solution of 5-[5-(2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester (3.96 g, 13.7 mmol) in dioxane (120 mL) and stir at room temperature overnight. After 1 hour, acidify to pH 1 with 5N HCl solution and concentrate to remove the majority of the dioxane. Add water to residue and place in refrigerator overnight. Filter out solids, wash with water, dry in a 50° C. vacuum oven for 6 hours to afford the title compound (3.11 g, 87%). MS (IS) 262 (M+1)+.

reactant | LiOH.H2O | 68.4 mmol, 2.87 g | O[Li].O
reactant | 5-[5-(2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 13.7 mmol, 3.96 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC=C1)O)=O | C16H19NO4
reactant | HCl | 5N | Cl | ClH
solvent | water | 60 mL | O | H2O
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 5-[5-(2-Hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid | 3.11 g, 87% | OC1=C(C=CC=C1)C1=CC(=NO1)CCCCC(=O)O | C14H15NO4
